US06350749B1
A solution of 5-(2-chlorophenyl)-cyclohexane-1,3-dione (1.0 g), hydrazine hydrochloride (0.31 g) in ethanol (10 ml) was refluxed for 3 hours. To the solution was added benzaldehyde (1.5 g), and the mixture was refluxed for 4 days. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography to give crystals, which were recrystallized from ethyl acetate-hexane to give 6-(2-chlorophenyl)-3-phenyl-4,5,6,7-tetrahydroindazol-4-one (0.06 g) as crystals.

reactant | 5-(2-chlorophenyl)-cyclohexane-1,3-dione | 1.0 g | ClC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C12H11ClO2
reactant | hydrazine hydrochloride | 0.31 g | Cl.NN
reactant | benzaldehyde | 1.5 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-(2-chlorophenyl)-3-phenyl-4,5,6,7-tetrahydroindazol-4-one | 0.06 g | ClC1=C(C=CC=C1)C1CC(C=2C(=NNC2C1)C1=CC=CC=C1)=O | C19H15ClN2O
